US04002647
1.0 g. of 6-[(6,7-epoxy-3,7-dimethyl-2-nonenyl)-oxy]-2,3-dihydrobenzofuran is dissolved in 25 ml. of ethyl acetate and hydrogenated in the presence of 50 mg. of platinum oxide until the theoretical amount of hydrogen has been taken up. The catalyst is then removed by filtration and the filtrate evaporated. By chromatography on silica gel using hexane/diethyl ether (19:1 parts by volume) there is obtained pure 6-[(6,7-epoxy-3,7-dimethylnonyl)-oxy]-2,3-dihydrobenzofuran; nD20 = 1.5118.

reactant | 6-[(6,7-epoxy-3,7-dimethyl-2-nonenyl)-oxy]-2,3-dihydrobenzofuran | O1C(CCC(=CCOC2=CC3=C(CCO3)C=C2)C)C1(CC)C | C19H26O3
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | [Pt]=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[(6,7-epoxy-3,7-dimethylnonyl)-oxy]-2,3-dihydrobenzofuran | O1C(CCC(CCOC2=CC3=C(CCO3)C=C2)C)C1(CC)C | C19H28O3
